US08440652B2
A solution of 4H-cyclopenta[b]thiophen-6(5H)-one (1.34 g, 9.7 mmol), hydroxylamine HCl (1.45 g, 20.8 mmol) and NaOAc (7.3 g, 89.0 mmol) in MeOH (150 mL) was stirred overnight at room temperature. The reaction was then concentrated under reduced pressure, taken up in EtOAc (100 mL) and filtered over a plug of silica gel, eluting with EtOAc. The filtrate was concentrated, taken up in polyphosphoric acid (100 g) and heated for 2 h at 130° C. Upon completion, the reaction was quenched by pouring over ice water (100 mL). The aqueous mixture was extracted with DCM (2×100 mL) and the combined extracts were washed with 0.1 M NaOH (100 mL), dried over Na2SO4, then filtered and concentrated. 5,6-dihydrothieno[2,3-c]pyridin-7(4H)-one (837 mg, 55% yield) was isolated as a white solid after purification by flash chromatography over silica gel (20-30% EtOAc/hexane eluent). 1H NMR (300 MHz, MeOH) δ ppm 7.69 (d, J=5.0 Hz, 1H), 7.06 (d, J=5.0 Hz, 1H), 3.57 (t, J=7.1 Hz, 2 H), 2.94 (t, J=7.1 Hz, 2H); MS (EI) m/z=154.2 [M+1]+.

reactant | 4H-cyclopenta[b]thiophen-6(5H)-one | 9.7 mmol, 1.34 g | S1C2=C(C=C1)CCC2=O | C7H6OS
reactant | hydroxylamine HCl | 20.8 mmol, 1.45 g | Cl.NO
reactant | NaOAc | 89.0 mmol, 7.3 g | CC(=O)[O-].[Na+]
solvent | MeOH | 150 mL | CO | CH4O
product | 5,6-dihydrothieno[2,3-c]pyridin-7(4H)-one | 837 mg, 55% yield | S1C=CC2=C1C(NCC2)=O | C7H7NOS
